* ===========================================================================
* Behavioural models for the discrete delta-sigma vinyl ADC testbenches
*
* Nothing on this board has a vendor SPICE model that is both free and
* redistributable, so every active part here is a behavioural stand-in built
* from primitives EVERY ngspice understands -- B, E, G, R, C, switches and
* terminated lossless T-lines for delay.  XSPICE digital primitives
* (d_dff, d_inverter) are deliberately avoided: they are not compiled into
* every ngspice build, so a sheet that depends on them runs for some people
* and not others.
*
* Each model covers only the behaviour the design depends on -- gain,
* bandwidth, slew, rail limits, propagation delay, output resistance.  What
* is NOT modelled is stated in each header, because the checks in
* tools/run_sims.py assert the DESIGN's numbers and a model that quietly
* invented behaviour would make them agree with nothing.
*
* Datasheet figures: TL074 (TI SLOS080), LM311 (TI SLCS007), 74HC04/74HC74/
* 74HC157/74HC244/74HC4040 (Nexperia/TI HC family, 5 V, 25 C), 74HC4049
* (3.3 V), 1N5817 (Vishay).
* ===========================================================================


*
* A note on the output stages below.  Every one of them squares its delay
* line's output through a tanh before turning it into volts.  That is not
* cosmetic: a lossless T-line integrated at a timestep coarse relative to
* its own delay overshoots by 10-15 % at each edge, and without the clamp
* that arrives at the pin as a 3.7 V high on a 3.3 V supply.  A real CMOS
* output cannot leave its own rails, so neither should the model -- and
* fixing it by forcing a 0.2 ns timestep instead would make every sheet ten
* times slower to run.
*
* --------------------------------------------------------------------------
* TL074 section -- single-pole op-amp with slew limit and rail clamp
*
*   Avol 100k, GBW 3 MHz typ, slew 13 V/us typ.
*   gm/(2*pi*cp) = 3.0 MHz ; ilim/cp = 13 V/us ; gm*rp = 1e5.
*
*   hr is the output headroom from each rail.  TI specifies VOM only at
*   VCC+- = +-15 V (+-13.5 V typ into 10 k, i.e. 1.5 V of headroom) and gives
*   no table entry at +-5 V, so 1.5 V is an EXTRAPOLATION and the saturation
*   level it produces is a measurement, not an assumption -- sim_d_integrator
*   reads it back and sim_h_loop asks whether the loop still recovers there.
*   Pass hr= to try another figure.
*
*   NOT modelled: the input common-mode floor (V- + 4 V, so -1 V on these
*   rails) and the phase inversion the real part shows below it.  Every
*   summing node in this design sits at 0 V or +2.5 V, so the checks measure
*   those nodes against the floor instead of trusting the model.
* --------------------------------------------------------------------------
.subckt OPAMP_TL074 inp inn out vp vn params: hr=1.5
.param gm=1m rp=1e8 cp=53.05p ilim=689.6u icl=1m
Rin  inp inn 1e12
* transconductance stage; tanh() saturation sets the slew rate (ilim/cp)
Bg   0 nint I = {ilim}*tanh({gm}*(V(inp)-V(inn))/{ilim})
Rp   nint 0 {rp}
Cp   nint 0 {cp}
* Clamp on the gain node, and it is NOT optional on this board.  Without it,
* driving the amp past its output range winds nint up to Avol times the input
* error -- tens of kV -- and unwinding that at the slew rate takes
* MILLISECONDS.  The integrators here saturate on every vinyl click, so the
* model would invent a latch-up that the real part does not have and the
* click test would fail for a reason that exists only in SPICE.
* Clamping at 1.65x the output half-span leaves the linear region untouched
* (the clamp draws under 1 % of ilim anywhere the output is still in range)
* and makes recovery from saturation about 150 ns, which is the order a
* 13 V/us part actually manages.
Bcl  nint 0 I = {icl}*( tanh((V(nint)-0.5*(V(vp)+V(vn))
+                            -1.65*(V(vp)-V(vn)-2*{hr}))/(0.15*(V(vp)-V(vn)-2*{hr})))
+                     + tanh((V(nint)-0.5*(V(vp)+V(vn))
+                            +1.65*(V(vp)-V(vn)-2*{hr}))/(0.15*(V(vp)-V(vn)-2*{hr}))) )
* Output buffer clamped inside the rails by a SMOOTH limiter.  min()/max()
* would clamp just as well but their derivative is discontinuous, which
* stalls Newton -- a plain follower then fails to find an operating point at
* all.  tanh() has neither problem.
Bo   nbuf 0 V = 0.5*(V(vp)+V(vn))
+ + 0.5*(V(vp)-V(vn)-2*{hr})*tanh( 2*(V(nint)-0.5*(V(vp)+V(vn)))
+ / (V(vp)-V(vn)-2*{hr}) )
Ro   nbuf out 100
.ends OPAMP_TL074


* --------------------------------------------------------------------------
* LM311 comparator -- open-collector output, referenced to its own emitter
*
*   Response time 200 ns typ, which is the figure the loop was designed
*   around: docs/design-notes.md section 2 shows it costs 7 dB and most of
*   the overload margin, and is why Rk0 exists.
*   VOL 0.23 V typ at 8 mA -> a 25 ohm switch to the emitter pin.
*
*   Sign matters: the LM311's output transistor turns OFF when + is above -,
*   so with a pull-up the output goes HIGH.  The comparator is NON-inverting.
*   Getting this backwards inverts the whole feedback loop, which on a
*   delta-sigma modulator means positive feedback and a latch.
*
*   NOT modelled: the input common-mode range (0.5 V to V+ - 1.5 V on a
*   single supply, so 0.5..3.5 V here).  The design biases both inputs to
*   +2.5 V; the checks measure that rather than assume it.
*   Pins: inp inn out oe vp vn      (oe = pin 1, the output emitter)
* --------------------------------------------------------------------------
.subckt CMP_LM311 inp inn out oe vp vn params: tpd=200n
Rin  inp inn 1e12
Bc   nc 0 V = 2.5*tanh(1e4*(V(inn)-V(inp)))
* pure propagation delay, terminated so nothing reflects
Td   nc 0 nd 0 Z0=1k TD={tpd}
Rt   nd 0 1k
* open collector: conducts to the emitter pin when the comparator is LOW
Sq   out oe nd 0 SW_OC
.model SW_OC SW(Ron=25 Roff=1e9 Vt=0 Vh=0.5)
.ends CMP_LM311


* --------------------------------------------------------------------------
* 74HC inverting gate -- one section, rail to rail, supply referenced
*
*   Used for both the 74HC04 DAC drive gates (tpd 9 ns, Ron 50 ohm at 5 V)
*   and the 74HC4049 level shifters (tpd 25 ns, Ron 100 ohm at 3.3 V), which
*   differ only in those two numbers -- pass them per instance.
*
*   The output resistance is not cosmetic here.  The 74HC04 IS the 1-bit DAC:
*   it drives 14k7 or 8k25, so Ron/(Ron+Rd) is a real gain error on the
*   feedback, and sim_f_dac measures it.
*
*   The 4049 tolerates an input above its own VCC because it has no input
*   clamp diode to VCC -- which is exactly what makes the 5 V -> 3.3 V level
*   shift legal.  The threshold below is referenced to the gate's OWN supply,
*   so that case comes out right without any special handling.
*
*   NOT modelled: input hysteresis, the 4049's supply-dependent threshold
*   shift, or the edge asymmetry that would cause DAC inter-symbol
*   interference (docs/design-notes.md section 9 flags that as the likely
*   reason the built board measures nearer 65 dB than 70).
* --------------------------------------------------------------------------
.subckt INV_74HC in out vcc vss params: tpd=9n ron=50
Bi   ni 0 V = 0.5*(1 - tanh(40*(V(in)-V(vss)-0.5*(V(vcc)-V(vss)))))
Td   ni 0 nd 0 Z0=1k TD={tpd}
Rt   nd 0 1k
Bsq  nsq 0 V = 0.5*(1+tanh(8*(2*V(nd)-1)))
Bo   nb 0 V = V(vss) + (V(vcc)-V(vss))*V(nsq)
Ro   nb out {ron}
.ends INV_74HC


* --------------------------------------------------------------------------
* 74HCT132 Schmitt NAND -- one section, used on this board as a clock buffer
* with both inputs tied together
*
*   The HCT part is chosen for its input threshold, not its function: HCT
*   switches near 1.3 V (VIL max 0.8 V, VIH min 2.0 V) rather than at half
*   supply, which is what lets a 3.3 V oscillator or the Pi's 3.3 V GPCLK0
*   drive a 5 V logic chain (docs/design-notes.md section 5).  So vth is the
*   parameter that matters here and it is referenced to VSS, not to VCC/2.
*   tpd 13 ns typ at 5 V.
*
*   NOT modelled: the Schmitt hysteresis itself (VT+ ~1.9 V, VT- ~1.0 V).
*   The board feeds this gate a clean square wave from an oscillator can, so
*   the hysteresis buys noise immunity rather than changing any timing here.
* --------------------------------------------------------------------------
.subckt NAND2_74HCT132 a b y vcc vss params: tpd=13n ron=50 vth=1.3
Ba   na 0 V = 0.5*(1+tanh(40*(V(a)-V(vss)-{vth})))
Bb   nb 0 V = 0.5*(1+tanh(40*(V(b)-V(vss)-{vth})))
Bn   nn 0 V = 1 - V(na)*V(nb)
Td   nn 0 nd 0 Z0=1k TD={tpd}
Rt   nd 0 1k
Bsq  nsq 0 V = 0.5*(1+tanh(8*(2*V(nd)-1)))
Bo   nq 0 V = V(vss)+(V(vcc)-V(vss))*V(nsq)
Ro   nq y {ron}
.ends NAND2_74HCT132


* --------------------------------------------------------------------------
* 74HC244 octal buffer -- all eight sections, because the charge pump
* parallels all eight and the whole question is what that is worth
*
*   Ron 30 ohm typ per output at 5 V (IOL 6 mA at 0.33 V max -> 55 ohm worst
*   case; pass ron= to see the worst case).  Eight in parallel is ~3.75 ohm,
*   and that resistance appears twice per pump cycle, so it is a third of the
*   pump's total droop -- see sim_a_pump.
*   Non-inverting, tpd 12 ns at 5 V.  /OE is active low and tri-states.
*
*   Node order follows the DIP pinout so Sim.Pins reads like the datasheet.
* --------------------------------------------------------------------------
* one section, shared by all eight; `en` is a 0/1 logic node, high = enabled
.subckt HC244SEC in out en vcc vss params: ron=30 tpd=12n
.model SW_EN SW(Ron=1m Roff=1e9 Vt=0.5 Vh=0.1)
Bi   ni 0 V = 0.5*(1 + tanh(40*(V(in)-V(vss)-0.5*(V(vcc)-V(vss)))))
Td   ni 0 nd 0 Z0=1k TD={tpd}
Rt   nd 0 1k
Bsq  nsq 0 V = 0.5*(1+tanh(8*(2*V(nd)-1)))
Bo   nb 0 V = V(vss) + (V(vcc)-V(vss))*V(nsq)
Rd   nb nc {ron}
Sen  nc out en 0 SW_EN
* every node needs a DC path to ground: a tri-stated output with none would
* hang ngspice looking for an operating point that does not exist
Rlk  out vss 1e9
.ends HC244SEC

.subckt BUF8_74HC244 oe1 a1 a2 a3 a4 y1 y2 y3 y4
+ oe2 b1 b2 b3 b4 z1 z2 z3 z4 vcc vss params: ron=30 tpd=12n
* enable comparators: ne is 1 when that half is ENABLED (/OE low)
Be1  ne1 0 V = 0.5*(1 - tanh(40*(V(oe1)-V(vss)-0.5*(V(vcc)-V(vss)))))
Be2  ne2 0 V = 0.5*(1 - tanh(40*(V(oe2)-V(vss)-0.5*(V(vcc)-V(vss)))))
XA1 a1 y1 ne1 vcc vss HC244SEC ron={ron} tpd={tpd}
XA2 a2 y2 ne1 vcc vss HC244SEC ron={ron} tpd={tpd}
XA3 a3 y3 ne1 vcc vss HC244SEC ron={ron} tpd={tpd}
XA4 a4 y4 ne1 vcc vss HC244SEC ron={ron} tpd={tpd}
XB1 b1 z1 ne2 vcc vss HC244SEC ron={ron} tpd={tpd}
XB2 b2 z2 ne2 vcc vss HC244SEC ron={ron} tpd={tpd}
XB3 b3 z3 ne2 vcc vss HC244SEC ron={ron} tpd={tpd}
XB4 b4 z4 ne2 vcc vss HC244SEC ron={ron} tpd={tpd}
.ends BUF8_74HC244


* --------------------------------------------------------------------------
* One master-slave stage, in 0..1 logic, toggling on the FALLING edge of in.
* The building block of the 4040 ripple counter below.  mr is an active-high
* asynchronous clear.
*
* Two transparent latches in series, the master open while the (inverted)
* clock is low and the slave while it is high, so there is no race: when the
* slave opens the master is already shut.  Each latch is a 1 pF node with a
* regenerating keeper through 10 k -- 100 times weaker than the 100 ohm write
* switch, so writing always wins, while 10 ns of keeper time constant against
* an 81 ns half period means holding always works.
*
* Two details stop the chain sitting metastable, which it otherwise DOES:
* half-supply is an exact self-consistent solution of a symmetric latch, and
* SPICE will happily find it and stay there for the whole run -- every output
* frozen at 2.5 V, counting nothing.  So the keeper is centred a hair off
* half (0.4995, the numerical stand-in for the asymmetry any real gate has),
* and the master clear pulls the LATCH nodes rather than only the output
* logic, so MR actually defines a starting state.
* --------------------------------------------------------------------------
.subckt TSTAGE in out mr params: tpd=5n
* Vt/Vh place the two transparent windows at in > 0.8 and in < 0.2, so there
* is a wide band where BOTH latches hold.  Switching both at 0.5 leaves them
* overlapping for a timestep on every edge, which closes an inverting
* combinational loop and the stage free-runs at several times the clock --
* it looks like a counter that counts far too fast.
.model SWL SW(Ron=100 Roff=1e9 Vt=0.7 Vh=0.1)
Bci  nci 0 V = 1-V(in)
Bml  nml 0 V = 1-V(nci)
Sm   nd nm nml 0 SWL
Cm   nm 0 1p
Bkm  nkm 0 V = (1-V(mr))*0.5*(1+tanh(40*(V(nm)-0.4995)))
Rkm  nkm nm 10k
* The slave must be DRIVEN by the master, not shorted to it.  Wiring the
* switch straight from nm to ns connects two 1 pF nodes through 100 ohm and
* they simply share charge -- a 1 and a 0 average to a half, and the keeper
* then regenerates that to whichever rail its own bias favours.  The stage
* looks like it is working and its output is noise.  Bmb is the buffer that
* makes the master a stiff source, which is what the real gate between the
* two latches does.
Bmb  nmb 0 V = V(nm)
Ss   nmb ns nci 0 SWL
Cs   ns 0 1p
Bks  nks 0 V = (1-V(mr))*0.5*(1+tanh(40*(V(ns)-0.4995)))
Rks  nks ns 10k
Bq   nq 0 V = (1-V(mr))*V(ns)
Bd   nd 0 V = (1-V(mr))*(1-V(nq))
Td   nq 0 ntd 0 Z0=1k TD={tpd}
Rtd  ntd 0 1k
* square the edge back up: the latch node regenerates over tens of ns and a
* real gate's output buffer does not pass that ramp on.  Leave it out and
* every stage's duty cycle reads a few percent off 50.
Bout out 0 V = 0.5*(1+tanh(8*(2*V(ntd)-1)))
.ends TSTAGE


* --------------------------------------------------------------------------
* 74HC4040 ripple counter -- the seven stages this design uses
*
*   Counts on the HIGH-to-LOW transition of CLK, MR is active high.
*   tin is the input-buffer delay (CLK to Q0, ~19 ns at 5 V) and tpd the
*   extra delay each further stage adds, so Q6 lags CLK by tin + 6*tpd.
*   That skew is not academic: docs/design-notes.md section 4b claims 163 ns
*   of I2S setup margin from DIN changing on a BCLK falling edge, and every
*   nanosecond of ripple eats into it.  sim_c_clock measures it.
*
*   Q7..Q11 are NOT modelled -- the board no-connects them.  The pins exist
*   on the symbol and are left unmapped, which is why the bench sheet marks
*   them no-connect rather than wiring them anywhere.
* --------------------------------------------------------------------------
.subckt DIV_74HC4040 clk mr q0 q1 q2 q3 q4 q5 q6 vdd vss
+ params: tin=19n tpd=5n rout=60
Bclk nc 0 V = 0.5*(1+tanh(40*(V(clk)-V(vss)-0.5*(V(vdd)-V(vss)))))
Bmr  nr 0 V = 0.5*(1+tanh(40*(V(mr)-V(vss)-0.5*(V(vdd)-V(vss)))))
Tin  nc 0 nci 0 Z0=1k TD={tin}
Rtin nci 0 1k
X0 nci n0 nr TSTAGE tpd={tpd}
X1 n0  n1 nr TSTAGE tpd={tpd}
X2 n1  n2 nr TSTAGE tpd={tpd}
X3 n2  n3 nr TSTAGE tpd={tpd}
X4 n3  n4 nr TSTAGE tpd={tpd}
X5 n4  n5 nr TSTAGE tpd={tpd}
X6 n5  n6 nr TSTAGE tpd={tpd}
Bv0 nv0 0 V = V(vss)+(V(vdd)-V(vss))*V(n0)
Rv0 nv0 q0 {rout}
Bv1 nv1 0 V = V(vss)+(V(vdd)-V(vss))*V(n1)
Rv1 nv1 q1 {rout}
Bv2 nv2 0 V = V(vss)+(V(vdd)-V(vss))*V(n2)
Rv2 nv2 q2 {rout}
Bv3 nv3 0 V = V(vss)+(V(vdd)-V(vss))*V(n3)
Rv3 nv3 q3 {rout}
Bv4 nv4 0 V = V(vss)+(V(vdd)-V(vss))*V(n4)
Rv4 nv4 q4 {rout}
Bv5 nv5 0 V = V(vss)+(V(vdd)-V(vss))*V(n5)
Rv5 nv5 q5 {rout}
Bv6 nv6 0 V = V(vss)+(V(vdd)-V(vss))*V(n6)
Rv6 nv6 q6 {rout}
.ends DIV_74HC4040


* --------------------------------------------------------------------------
* 74HC74 D flip-flop -- one section, positive-edge triggered
*
*   tpd 14 ns typ at 5 V, Ron 50 ohm.  Asynchronous set and reset, both
*   active low; the board ties them to VCC.
*   This is the retiming stage that makes the modulator's DAC edges land on
*   the clock rather than on the comparator's own delay, so its setup time
*   against MCLK is what the loop's excess delay budget is spent on.
*
*   NOT modelled: setup/hold violation behaviour (it samples whatever D is at
*   the edge, with no metastability), and the real part's Q = ~Q = HIGH state
*   when set and reset are asserted together.
* --------------------------------------------------------------------------
.subckt DFF_74HC74 d clk sn rn q qn vcc vss params: tpd=14n ron=50
.model SWD SW(Ron=100 Roff=1e9 Vt=0.7 Vh=0.1)
Bd   nd 0 V = 0.5*(1+tanh(40*(V(d)-V(vss)-0.5*(V(vcc)-V(vss)))))
Bc   nc 0 V = 0.5*(1+tanh(40*(V(clk)-V(vss)-0.5*(V(vcc)-V(vss)))))
Bsn  nsn 0 V = 0.5*(1+tanh(40*(V(sn)-V(vss)-0.5*(V(vcc)-V(vss)))))
Brn  nrn 0 V = 0.5*(1+tanh(40*(V(rn)-V(vss)-0.5*(V(vcc)-V(vss)))))
* master transparent while the clock is low, slave while it is high
Bml  nml 0 V = 1-V(nc)
Sm   nd nm nml 0 SWD
Cm   nm 0 1p
Bkm  nkm 0 V = (1-V(nsn)) + V(nsn)*V(nrn)*0.5*(1+tanh(40*(V(nm)-0.4995)))
Rkm  nkm nm 10k
Bmb  nmb 0 V = V(nm)
Ss   nmb ns nc 0 SWD
Cs   ns 0 1p
Bks  nks 0 V = (1-V(nsn)) + V(nsn)*V(nrn)*0.5*(1+tanh(40*(V(ns)-0.4995)))
Rks  nks ns 10k
* asynchronous set wins over reset, both active low
Bqf  nqf 0 V = (1-V(nsn)) + V(nsn)*V(nrn)*V(ns)
Tq   nqf 0 nqd 0 Z0=1k TD={tpd}
Rtq  nqd 0 1k
Bsq  nsq 0 V = 0.5*(1+tanh(20*(V(nqd)-0.5)))
Bo   nqo 0 V = V(vss)+(V(vcc)-V(vss))*V(nsq)
Roq  nqo q {ron}
Bon  nqno 0 V = V(vss)+(V(vcc)-V(vss))*(1-V(nsq))
Roqn nqno qn {ron}
.ends DFF_74HC74


* --------------------------------------------------------------------------
* 74HC157 -- one 2-to-1 multiplexer section
*
*   S low selects I0, S high selects I1; E is an active-low enable that
*   forces the output low.  tpd 12 ns typ at 5 V.
*   On this board S is MCLK, I0 is the right channel and I1 the left, which
*   is what interleaves the two modulators onto one DIN at 3.072 Mbps.
*
*   NOT modelled: the other three sections (the board grounds their inputs
*   and no-connects their outputs) or the select-to-output skew difference
*   between the two paths.
* --------------------------------------------------------------------------
.subckt MUX2_74HC157 s i0 i1 z e vcc vss params: tpd=12n ron=50
Bs   nsel 0 V = 0.5*(1+tanh(40*(V(s)-V(vss)-0.5*(V(vcc)-V(vss)))))
B0   n0 0 V = 0.5*(1+tanh(40*(V(i0)-V(vss)-0.5*(V(vcc)-V(vss)))))
B1   n1 0 V = 0.5*(1+tanh(40*(V(i1)-V(vss)-0.5*(V(vcc)-V(vss)))))
Be   nen 0 V = 0.5*(1-tanh(40*(V(e)-V(vss)-0.5*(V(vcc)-V(vss)))))
Bm   nm 0 V = V(nen)*( (1-V(nsel))*V(n0) + V(nsel)*V(n1) )
Td   nm 0 ndz 0 Z0=1k TD={tpd}
Rt   ndz 0 1k
Bsq  nsq 0 V = 0.5*(1+tanh(8*(2*V(ndz)-1)))
Bo   nb 0 V = V(vss)+(V(vcc)-V(vss))*V(nsq)
Ro   nb z {ron}
.ends MUX2_74HC157


* --------------------------------------------------------------------------
* 1N5817 Schottky, fitted as D1/D2 in the charge pump.
* 20 V / 1 A: Is and Rs fitted to the datasheet Vf curve -- 0.25 V at 32 mA
* (which is the pump's working current, and two of these drops are the
* largest single term in its output droop) and 0.40 V at 1 A.
* --------------------------------------------------------------------------
.model D1N5817 D(Is=2e-6 Rs=0.06 N=1.0 Cjo=110p Vj=0.4 M=0.5 Bv=20 Ibv=1m)
